US03976657
C. [2-Chloro-5-[3-(2-furanyl)-1,2,4-oxadiazol-5-yl]phenyl]carbamic acid, methyl ester
To a mixture of 5-(3-amino-4-chlorophenyl)-3-(2-furanyl)-1,2,4-oxadiazole (1.35 g) and 1.05 g of potassium carbonate in 30 ml of dioxane, 0.75 g of methyl chloroformate is added. The resulting mixture is heated at reflux for 16 hours, concentrated to dryness and the residue placed on an alumina column. The product is eluted with benzene to yield 0.45 g of the title compound, melting point 200°-201°C.

reactant | 5-(3-amino-4-chlorophenyl)-3-(2-furanyl)-1,2,4-oxadiazole | 1.35 g | NC=1C=C(C=CC1Cl)C1=NC(=NO1)C=1OC=CC1 | C12H8ClN3O2
reactant | potassium carbonate | 1.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl chloroformate | 0.75 g | ClC(=O)OC | C2H3ClO2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | [2-Chloro-5-[3-(2-furanyl)-1,2,4-oxadiazol-5-yl]phenyl]carbamic acid, methyl ester | 0.45 g | ClC1=C(C=C(C=C1)C1=NC(=NO1)C=1OC=CC1)NC(OC)=O | C14H10ClN3O4
